US04845118
1-Ethoxycarbonyl-2-(4-methoxy-2-picolylsulfinyl)-1H-thieno[3,4-d]imidazole
To 750 mg (2.1 mmol) of 1-ethoxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole in 30 ml of methylene chloride and 25 ml of 0.5 N aqueous sodium bicarbonate solution were added dropwise, with stirring, initially 420 mg (2.1 mmol) and then a further 210 mg (1.05 mmol) of 3-chloroperbenzoic acid CH2Cl2. The organic phase was dried over MgSO4 and concentrated in vacuo, and the residue was crystallized from ethyl acetate. Melting point 143° C. (decomposition).

reactant | 1-ethoxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 2.1 mmol, 750 mg | C(C)OC(=O)N1C(=NC=2C1=CSC2)SCC2=NC=CC(=C2)OC | C15H15N3O3S2
reactant | sodium bicarbonate | 0.5 N, 25 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-Ethoxycarbonyl-2-(4-methoxy-2-picolylsulfinyl)-1H-thieno[3,4-d]imidazole | C(C)OC(=O)N1C(=NC=2C1=CSC2)S(=O)CC2=NC=CC(=C2)OC | C15H15N3O4S2
